US04182711
Sodium (1.15 g.; 50.0 mmoles) was dissolved in 2-methoxyethanol (50 ml.; anhydrous) under N2 at room temperature. The temperature rose to 110° over about a 30 minute period. The pale yellow mixture was cooled to room temperature and to this was added powdered potassium bromoacetate (8.85 g.; 50.0 mmoles) under vigorous stirring. The mixture (suspension) was stirred at room temperature overnight (19 hrs.) under N2. The excess of methoxyethanol was removed in vacuo and the residue diluted with H2O (50 ml.) and neutralized with 1N HCl (50 ml.). After evaporation of water, the residue was extracted with CH2Cl2 (75 ml.×2) and the extracts were evaporated to dryness yielding 5.26 g. of yellowish oil. This oil was distilled under reduced pressure, yielding 2-methoxyethoxyacetic acid (4.72 g.; 35.2 mmoles; yield 70.5%) as a colorless oil: b.p. 98° C./0.3 mm Hg; nmr (CDCl3): δ ppm 3.45 (3H, s, -OCH3), 3.4-3.9 (4H, m, --OCH2CH2O-), 4.22 (2H, s, HO2CCH2O-), 9.74 (1H, br. s., -CO2H); ir (neat) 1750 cm-1 (νc=o --CO2H).

reactant | Sodium | 50.0 mmoles, 1.15 g | [Na] | Na
reactant | potassium bromoacetate | 50.0 mmoles, 8.85 g | BrCC(=O)[O-].[K+]
reactant | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | 2-methoxyethoxyacetic acid | 35.2 mmoles, 4.72 g, yield 70.5% | COCCOCC(=O)O | C5H10O4
